US07186749B2
Step 1: Methyl 2-{[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate.
In a similar manner as described in step 6 of Example 1, the title compound was prepared from 6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol (0.300 g, 1.00 mmol), prepared in step 2 of Example 5, 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester (0.469 g, 1.50 mmol) and cesium carbonate (0.653 g, 2.00 mmol) with the exception that this reaction was complete after 4 hours at ambient temperature. Purification on a Biotage Horizon™ system with a KP-Sil Flash 40+M column (100 g Silica Gel, 60 Å) using 25% to 55% methylene chloride in hexane as the eluent gave methyl 2-{[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate as a white solid (0.437 g, 94%), mp 117–118° C. Elemental Analysis for C31H27NO3 Calc'd: C, 80.67; H, 5.90; N, 3.03. Found: C, 80.35; H, 6.16; N, 2.91.

reactant | 6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 1.00 mmol, 0.300 g | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C21H17NO
reactant | 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester | 1.50 mmol, 0.469 g | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | cesium carbonate | 2.00 mmol, 0.653 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | methyl 2-{[6-(1-methyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.437 g, 94% | CN1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)OC)CC1=CC=CC=C1 | C31H27NO3
